US07723352B2
11-(3-fluorophenyl)-9-methoxy-1,2,3,4-tetrahydro-6H-pyrido[1,2-b]isoquinolin-6-one
To a suspension of 11-(3-fluorophenyl)-9-methoxy-6-oxo-3,6-dihydro-4H-pyrido[1,2-b]isoquinolin-1-yl trifluoromethanesulfonate in EtOH (4 ml) and EtOAc (2 mL) was added PtO2 as a slurry in EtOH. The reaction was stirred at room temp under an H2 balloon for 16 h. The mixture was filtered through celite and concentrated. Flash chromatography (40 g silica, 30-80% EtOAc/hexanes) gave the titled compound.

reactant | 11-(3-fluorophenyl)-9-methoxy-6-oxo-3,6-dihydro-4H-pyrido[1,2-b]isoquinolin-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCCN2C(C=3C=CC(=CC3C(=C21)C2=CC(=CC=C2)F)OC)=O)(F)F | C21H15F4NO5S
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | O=[Pt]=O
product | 11-(3-fluorophenyl)-9-methoxy-1,2,3,4-tetrahydro-6H-pyrido[1,2-b]isoquinolin-6-one | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2 | C20H18FNO2
